US07514461B2
To a solution of 6-benzyloxy-2,2,7,8-tetramethyl-4H-benzo[1,3]dioxine (86 mg, 0.29 mmol) in 10 mL EtOH was added Pd/C (15 mg, 10%). It was stirred in a hydrogen atmosphere for 1.5 h and filtered. The solution was concentrated and the crude product was purified on silicagel column chromatography to afford 2,2,7,8-tetramethyl-4H-benzo[1,3]dioxin-6-ol as a white solid (54 mg). 1H-NMR (CDCl3, 300 MHz) δ (ppm): 6.28 (s, 1H), 4.77 (s, 1H), 4.76 (s, 2H), 2.17 (s, 3H), 2.13 (s, 1H), 1.55 (s, 3H), 1.54 (s, 3H); 13C-NMR δ (ppm): 147.1, 142.9, 126.1, 122.7, 116.6, 107.5, 99.1, 60.9, 24.8, 11.9, 11.5.

reactant | 6-benzyloxy-2,2,7,8-tetramethyl-4H-benzo[1,3]dioxine | 0.29 mmol, 86 mg | C(C1=CC=CC=C1)OC=1C(=C(C2=C(COC(O2)(C)C)C1)C)C | C19H22O3
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd/C | 15 mg | [Pd] | Pd
product | 2,2,7,8-tetramethyl-4H-benzo[1,3]dioxin-6-ol | 54 mg | CC1(OC2=C(CO1)C=C(C(=C2C)C)O)C | C12H16O3
